US04430339
Sodium 2-(5-Cyclohexylpentyl)-oxirane-2-carboxylate
1.5 g of 2-(5-cyclohexylpentyl)-oxirane-2-carboxylic acid ethyl ester are stirred for 2 hours at room temperature with 5,6 ml of 1 N sodium hydroxide solution and 5 ml of tetrahydrofuran. The mixture is concentrated to half its volume and the fatty gleaming plates of the title compound which have been precipitated are filtered off.

reactant | 2-(5-cyclohexylpentyl)-oxirane-2-carboxylic acid ethyl ester | 1.5 g | C(C)OC(=O)C1(OC1)CCCCCC1CCCCC1 | C16H28O3
reactant | sodium hydroxide | 1 N, 5,6 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | Sodium 2-(5-Cyclohexylpentyl)-oxirane-2-carboxylate | C1(CCCCC1)CCCCCC1(OC1)C(=O)[O-].[Na+] | InChI=1S/C14H24O3.Na/c15-13(16)14(11-17-14)10-6-2-5-9-12-7-3-1-4-8-12;/h12H,1-11H2,(H,15,16);/q;+1/p-1
